US05369018
Synthesis of Boc-Phe-Leu-NH2
1 ml 0.1M veronal-Na/HCl buffer, pH 8.3/50% (v/v) DMSO, containing 100 mM Boc-Phe-OCam, 300 mM H-Leu-NH2 and 100 μM trypsinogen is agitated at room temperature under pH control. After 3 hours, the reaction is stopped as described in Example 3. The yield is analytically determined with HPLC to be 93% of theory.

reactant | Boc-Phe | 100 mM | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | H-Leu-NH2 | 300 mM | N[C@@H](CC(C)C)C(=O)N | C6H14N2O
solvent | DMSO | CS(=O)C | C2H6OS
product | Boc-Phe-Leu-NH2 | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N)C(=O)OC(C)(C)C | C20H31N3O4
